US06017917
The mixture of 2,5-dichlorophenyl-dihydroxyborane (9.35 g), 5-methoxycarbonyl-3-iodobenzoic acid (10 g), potassium carbonate (14.0 g) and palladium(II) acetate (0.073 g) in water (200 ml) was stirred at 40° C. for four hours. Undissolved material was filtered, washed with water (100 ml), suspended in water (150 ml) and adjusted to pH 2.0 with 6N hydrochloric acid. The mixture was extracted two times with a mixture of ethyl acetate (120 ml) and tetrahydrofuran (60 ml), washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residual crystalline was washed with n-hexane to give 3-methoxycarbonyl-5-(2,5-dichlorophenyl)benzoic acid (5.36 g, 50.4%).

reactant | 2,5-dichlorophenyl-dihydroxyborane | 9.35 g | ClC1=C(C=C(C=C1)Cl)B(O)O | C6H5BCl2O2
reactant | 5-methoxycarbonyl-3-iodobenzoic acid | 10 g | COC(=O)C=1C=C(C=C(C(=O)O)C1)I | C9H7IO4
reactant | potassium carbonate | 14.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 200 ml | O | H2O
catalyst | palladium(II) acetate | 0.073 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-methoxycarbonyl-5-(2,5-dichlorophenyl)benzoic acid | 5.36 g, 50.4% | COC(=O)C=1C=C(C(=O)O)C=C(C1)C1=C(C=CC(=C1)Cl)Cl | C15H10Cl2O4
